US04112237
The sodium methoxycarbonylmethylsulfonate salt was added in small portions to a stirred solution of 840 ml (9.14 mols) phosphorus oxychloride. The resulting mixture was then heated at 80°-100° C for about 5 hours and allowed to cool overnight. The reaction mixture was filtered, the filtered solid was washed with dichloromethane and the filtrate distilled under reduced pressure to remove the dichloromethane and excess phosphorus oxychloride. The resulting oil residue was distilled through a short Vigreaux column to give 226.8 g (65.7% yield) of methoxycarbonylmethylsulfonyl chloride, as a yellow oil, b.p. 79°-80° C. (0.5 mm Hg).

reactant | sodium methoxycarbonylmethylsulfonate salt | COC(=O)CS(=O)(=O)[O-].[Na+]
reactant | phosphorus oxychloride | 9.14 mols, 840 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methoxycarbonylmethylsulfonyl chloride | 226.8 g, 65.7% yield | COC(=O)CS(=O)(=O)Cl | C3H5ClO4S
